US04349684
8-[4.5-Bis-(2-fluorophenyl)-3-methyl-2-oxo-4-imidazolin-1-yl] caprylic acid
The product is produced as described in example 18 from 5.2 g of 8-[4.5-bis-(2-fluorophenyl)-3-methyl-2-oxo-4-imidazolin-1-yl] caprylic acid methyl ester and 0.53 g of NaOH in 25 cc. of methanol. Recrystallization from ether/hexane.

reactant | 8-[4.5-bis-(2-fluorophenyl)-3-methyl-2-oxo-4-imidazolin-1-yl] caprylic acid methyl ester | 5.2 g | COC(CCCCCCCN1C(N(C(=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)C)=O)=O | C25H28F2N2O3
reactant | NaOH | 0.53 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-[4.5-Bis-(2-fluorophenyl)-3-methyl-2-oxo-4-imidazolin-1-yl] caprylic acid | FC1=C(C=CC=C1)C=1N(C(N(C1C1=C(C=CC=C1)F)CCCCCCCC(=O)O)=O)C | C24H26F2N2O3
